US07776897B2
N-(2-Aminoethyl)-2-chlorobenzamide hydrochloride was suspended in dichloromethane and stirred with triethylamine and methanesulfonyl chloride to obtain 2-chloro-N-{2-[(methylsulfonyl)amino]ethyl}benzamide.

reactant | N-(2-Aminoethyl)-2-chlorobenzamide hydrochloride | Cl.NCCNC(C1=C(C=CC=C1)Cl)=O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-chloro-N-{2-[(methylsulfonyl)amino]ethyl}benzamide | ClC1=C(C(=O)NCCNS(=O)(=O)C)C=CC=C1 | C10H13ClN2O3S
